US07402592B2
7,9-Bis(methylsulfonyloxymethyl)-1,4-dioxaspiro[4.5]decane
To a solution of 7,9-bis(hydroxymethyl)-1,4-dioxaspiro[4.5]decane (6.3 g, 21 mmol) in dry dichloromethane (100 ml) with triethylamine (8.90 ml, 63.8 mmol) was added methanesulfonyl chloride (4.11 ml, 53.2 mmol) drop-wise at 0° C. The reaction was allowed to come to ambient temperature and stir overnight. The reaction was quenched with saturated sodium bicarbonate (50 ml) and allowed to stir for 15 min. After separation, the aqueous layer was extracted with dichloromethane (1×50 ml). The combined extracts were dried over potassium carbonate, filtered and concentrated to give a dark brown liquid (7.3 g, 97%).

reactant | 7,9-bis(hydroxymethyl)-1,4-dioxaspiro[4.5]decane | 21 mmol, 6.3 g | OCC1CC2(OCCO2)CC(C1)CO | C10H18O4
reactant | triethylamine | 63.8 mmol, 8.90 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 53.2 mmol, 4.11 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 7,9-Bis(methylsulfonyloxymethyl)-1,4-dioxaspiro[4.5]decane | 7.3 g, 97% | CS(=O)(=O)OCC1CC2(OCCO2)CC(C1)COS(=O)(=O)C | C12H22O8S2
